US04221815
4-(2-Acetaminoethyl)-benzoic acid was reacted with nitrating acid to 4-(2-acetaminoethyl)-3-nitro-benzoic acid, M.p. 189° C. (from methanol). The following catalytical hydrogenation yielded the 4-(2-acetaminoethyl)-3-aminoethyl)-3-amino-benzoic acid with a melting point of 143° C. (from ethanol/petroleum ether). From this compound, there was obtained by diazotation and Sandmeyer-reaction the 4-(2-acetamino-ethyl)-3-chloro-benzoic acid having a melting point of 150° C. or by boiling up the diazo solution, the 4-(2-acetaminoethyl)-3-chloro-benzoic acid M.p. 222°-223° C. From 4-(2-acetaminoethyl)-3-hydroxy-benzoic acid, there were obtained with dimethyl sulfate or diethyl sulfate, the corresponding 4-(2-acetaminoethyl)-3-methoxy-benzoic acid methyl ester and the 4-(2-acetaminoethyl)-3-ethoxy-benzoic acid ethyl ester.

reactant | 4-(2-Acetaminoethyl)-benzoic acid | N(C(=O)C)CCC1=CC=C(C(=O)O)C=C1 | C11H13NO3
reactant | 4-(2-acetaminoethyl)-3-nitro-benzoic acid | N(C(=O)C)CCC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C11H12N2O5
solvent | methanol | CO | CH4O
product | 3-amino-benzoic acid | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
